US07012075B2
To tert-butyl 4-[4-(4-amino-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate (700 mg, 2.03 mmol) and DMAP (820 mg, 6.7 mmol) in 1,2-dichloroethane (50 mL) under dry nitrogen was added 2,2,2-trichloroethyl chloroformate (0.62 mL, 4.5 mmol) dropwise and the reaction was refluxed for ½ hour. An additional aliquot of DMAP (820 mg, 6.7 mmol) and 2,2,2-trichloroethyl chloroformate (0.62 mL, 4.5 mmol) were added and the reaction mixture was refluxed for 1 hour. Further aliquots of DMAP (820 mg, 6.7 mmol) and 2,2,2-trichloroethyl chloroformate (0.62 mL, 4.5 mmol) were added and the reaction mixture was refluxed for a total of 4 hours. After cooling to rt, the reaction was poured into aqueous 10% HCl and the product extracted with EtOAc (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 3/7, then 1/1) to afford tert-butyl 4-[4-(4-{bis[(2,2,2-trichloroethoxy)carbonyl]amino}-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate.

reactant | tert-butyl 4-[4-(4-amino-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate | 2.03 mmol, 700 mg | NC=1C(=NON1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23N5O3
reactant | 2,2,2-trichloroethyl chloroformate | 4.5 mmol, 0.62 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | 2,2,2-trichloroethyl chloroformate | 4.5 mmol, 0.62 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | 2,2,2-trichloroethyl chloroformate | 4.5 mmol, 0.62 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | HCl | Cl | ClH
catalyst | DMAP | 6.7 mmol, 820 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 6.7 mmol, 820 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | DMAP | 6.7 mmol, 820 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 4-[4-(4-{bis[(2,2,2-trichloroethoxy)carbonyl]amino}-1,2,5-oxadiazol-3-yl)phenyl]piperazine-1-carboxylate | ClC(COC(=O)N(C=1C(=NON1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC(Cl)(Cl)Cl)(Cl)Cl | C23H25Cl6N5O7
